US06784167B2
To a degassed mixture of 2-iodothiophene (0.87 mL, 7.88 mmol), Cu2O (0.56 g, 3.9 mmol) and KOH (0.44 g, 7.8 mmol) in DMF (7.8 mL) was slowly added 4-fluorobenzenethiol (0.33 mL, 7.8 mmol). The resulting mixture was heated at 135° C. for 15 h, allowed to cool to room temperature and poured into a 0° C. 6N HCl solution. After 15 min. the precipitate was filtered and washed with benzene. The filtrate was extracted with benzene, dried (MgSO4) and concentrated under reduced pressure to give 2-(4-fluorophenylthio)thiophene (1.13 g, 69%) as a pale yellow oil: TLC (10% EtOAc/hex) Rf 0.49; HPLC ES-MS m/z (rel intensity) 210 (M+, 100).

reactant | 2-iodothiophene | 7.88 mmol, 0.87 mL | IC=1SC=CC1 | C4H3IS
reactant | KOH | 7.8 mmol, 0.44 g | [OH-].[K+]
reactant | 4-fluorobenzenethiol | 7.8 mmol, 0.33 mL | FC1=CC=C(C=C1)S | C6H5FS
reactant | HCl | 6N | Cl | ClH
solvent | DMF | 7.8 mL | CN(C)C=O | C3H7NO
product | 2-(4-fluorophenylthio)thiophene | 1.13 g, 69% | FC1=CC=C(C=C1)SC=1SC=CC1 | C10H7FS2
